US07534788B2
Step 3: 5-Chloro-6-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester
The above prepared (2-acetyl-4-chloro-5-methoxy-phenoxy)-acetic acid ethyl ester-(6.05 g, 21.1 mmol) was dissolved in 45 mL of dimethoxyethane and treated at −15° C. with KOtBu (0.947 g, 0.4 eq.). After keeping for 45 Min. at −15° C. and 5 h at 0° C., the reaction mixture was poured onto crashed ice/HCl, twofold extracted with AcOEt, washed with water, dried over magnesium sulfate, and evaporated to dryness to leave 5.26 g of crude product. Flash chromatography (SiO2, hexane/AcOEt=9/1) of the latter afforded 2.32 g of the title compound as white crystals.

reactant | (2-acetyl-4-chloro-5-methoxy-phenoxy)-acetic acid ethyl ester- | 21.1 mmol, 6.05 g | C(C)OC(COC1=C(C=C(C(=C1)OC)Cl)C(C)=O)=O | C13H15ClO5
reactant | KOtBu | 0.947 g, 0.4 eq. | CC(C)(C)[O-].[K+]
reactant | hexane AcOEt | CCCCCC.CCOC(=O)C
solvent | dimethoxyethane | 45 mL | C(OC)COC | C4H10O2
product | 5-Chloro-6-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.32 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)OC)Cl | C13H13ClO4
